US06858651B2
In analogy to examples 29.10 and 29.11, trans-Methansulfonic acid 5-(4-methyl amino-cyclohexyl)-pentyl ester.trifluoroacetic acid salt and 4-bromophenyl chloroformate were reacted, followed by treatment with by 2-ethylamino-ethanol to yield trans-(4-{5-[Ethyl-(2-hydroxy-ethyl)-amino]-pentyl}-cyclohexyl)-methyl-carbamic acid 4-bromo-phenyl ester, MS: 469 (MH+, 1Br).

reactant | trans-Methansulfonic acid 5-(4-methyl amino-cyclohexyl)-pentyl ester | CN[C@@H]1CC[C@H](CC1)CCCCCOS(=O)(=O)C | C13H27NO3S
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
reactant | 4-bromophenyl chloroformate | ClC(=O)OC1=CC=C(C=C1)Br | C7H4BrClO2
reactant | 2-ethylamino-ethanol | C(C)NCCO | C4H11NO
product | trans-(4-{5-[Ethyl-(2-hydroxy-ethyl)-amino]-pentyl}-cyclohexyl)-methyl-carbamic acid 4-bromo-phenyl ester | BrC1=CC=C(C=C1)OC(N(C)[C@@H]1CC[C@H](CC1)CCCCCN(CCO)CC)=O | C23H37BrN2O3
